US06054615
A 210-ml shaker tube was charged with 30 g of C4F9CH2CH2CN, 4.0 g of PtB on activated carbon (2%) and 30 ml THF. The vessel was closed, cooled, evacuated and pressured with hydrogen to 3.5 MPa. The vessel was heated to 110° C. and hydrogen pressure was adjusted to 10.3 MPa. The mixture was shaken for 16 h. The vessel was cooled and the gas was vented slowly. The contents were filtered and the filtrate was distilled to remove THF. The residue was distilled at reduced pressure to give 4,4,5,5,6,6,7,7,7-nonafluoroheptylamine (4.0 g, 13%, b.p. 94-97° C./24 kPa absolute) and di(4,4,5,5,6,6,7,7,7-nonailuoroheptyl)amine (20.5 g, 69%, b.p. 105-108° C./270 Pa absolute). The distillation residue (0.2 g) was mainly (C4F9CH2CH2CH2)3N.

reactant | C4F9CH2CH2CN | 30 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)CCC#N | C7H4F9N
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4,4,5,5,6,6,7,7,7-nonafluoroheptylamine | 4.0 g, 13% | FC(CCCN)(C(C(C(F)(F)F)(F)F)(F)F)F | C7H8F9N
